US04231782
Butyl N-carbobenzoxy-N-(dichlorophosphonomethyl)glycinate (13.25 g., 0.34 mole) and pentanethiol (6.96 g., 0.67 mole) were dissolved in 100 ml. of diethyl ether and 50 ml. of methylene chloride. Triethylamine (6.76 g) dissolved in 100 ml. of diethyl ether was then added. The reaction mixture was stirred for 16 hours at ambient temperatures and then filtered. The filtrate was washed with 3% ammonium hydroxide, then with brine, then with 5% hydrochloric acid and then the brine and the ether solution dried over sodium sulfate and then evaporated in vacuo to yield a crude product. The crude product was chromatographed through a silica gel column employing methylene chloride as the eluant. Evaporation of the methylene chloride yielded n-butyl N-carbobenzoxy-N-[di-(n-pentylthio)phosphonomethyl]glycinate as a yellow oil, ND25 =1.5218 and having the following analysis.

reactant | Butyl N-carbobenzoxy-N-(dichlorophosphonomethyl)glycinate | 0.34 mole, 13.25 g | C(=O)(OCC1=CC=CC=C1)N(CC(=O)OCCCC)CP(=O)(OCl)OCl | C15H20Cl2NO7P
reactant | pentanethiol | 0.67 mole, 6.96 g | C(CCCC)S | C5H12S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Triethylamine | 6.76 g | C(C)N(CC)CC | C6H15N
product | n-butyl N-carbobenzoxy-N-[di-(n-pentylthio)phosphonomethyl]glycinate | C(=O)(OCC1=CC=CC=C1)N(CC(=O)OCCCC)CP(=O)(OSCCCCC)OSCCCCC | C25H42NO7PS2
